US08476294B2
Stage 141.1.2 (5-Bromo-3-fluoro-pyridin-2-yl)-methyl-amine
A mixture of 5-bromo-2,3-difluoropyridine (Matrix, Columbia, USA, 2.53 mmol) and 8 M methylamine in EtOH (Aldrich, Buchs, Switzerland, 2 ml, 16 mmol) was sealed in a vial and heated with microwave irradiation at 100° C. for 30 min. The cooled RM was diluted with EtOAc, washed with brine, dried over Na2SO4, filtered and evaporated to dryness to give the title product as an off-white solid. (HPLC: tR 1.94 min (Method A); M+H=205, 207, M−H=203, 205 MS-ES)

reactant | 5-bromo-2,3-difluoropyridine | 2.53 mmol | BrC=1C=C(C(=NC1)F)F | C5H2BrF2N
reactant | methylamine | 8 M | CN | CH5N
reactant | EtOH | 16 mmol, 2 ml | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-Bromo-3-fluoro-pyridin-2-yl)-methyl-amine | BrC=1C=C(C(=NC1)NC)F | C6H6BrFN2
